US03968227
1-[1-(2-((5-Methyl-4-imidazolyl)methylthio)ethylamino)-2-nitrovinylamino]-3-[N'-cyano-N"-(2-(2-pyridylmethylthio)ethyl)guanidino]propane
1-Nitro-2-methylthio-2-[2-((5-methyl-4-imidazolyl)methylthio)ethylamino]ethylene was reacted with 3-benzoylaminopropylamine and the product was hydrolyzed under acidic conditions and reacted with N-cyano-N'-[2-(2-pyridylmethylthio)ethyl]-S-methylisothiourea to give the title compound.

reactant | 1-Nitro-2-methylthio-2-[2-((5-methyl-4-imidazolyl)methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC=1N=CNC1C)SC | C10H16N4O2S2
reactant | 3-benzoylaminopropylamine | C(C1=CC=CC=C1)(=O)NCCCN | C10H14N2O
reactant | N-cyano-N'-[2-(2-pyridylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NC=CC=C1 | C11H14N4S2
product | 1-[1-(2-((5-Methyl-4-imidazolyl)methylthio)ethylamino)-2-nitrovinylamino]-3-[N'-cyano-N"-(2-(2-pyridylmethylthio)ethyl)guanidino]propane | CC1=C(N=CN1)CSCCNC(=C[N+](=O)[O-])NCCCNC(=NC#N)NCCSCC1=NC=CC=C1 | C22H32N10O2S2
